US07442808B2
1H-inden-6-amine
To a stirred solution of 5-amino-1-hydroxyindane (4.2 g, 0.26 mol) in methanol (100 mL) was added hydrochloric acid (100 mL, 1.0 N). The mixture was stirred at 40° C. for 2 h, and then was concentrated to dryness under vacuum to the product as gray powder.

reactant | 5-amino-1-hydroxyindane | 0.26 mol, 4.2 g | NC=1C=C2CCC(C2=CC1)O | C9H11NO
reactant | hydrochloric acid | 1.0 N, 100 mL | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
product | 1H-inden-6-amine | C1C=CC2=CC=C(C=C12)N | C9H9N
